US04069252
A solution of 135 g (1 mole) of dimethylbenzylamine in 100 ml of toluene was added dropwise, at -20° C, while cooling, in the course of 30 minutes to a mixture of 170 g (1 mole) of para-methoxybenzoyl chloride and 50 g of anhydrous hydrocyanic acid in 400 ml of toluene at such a rate that the internal temperature did not rise above -20° C during the addition. When the addition was complete, the mixture was stirred for a further 10 minutes at -20° C and excess hydrocyanic acid was then distilled, under a waterpump vacuum, into a cooled receiver. The residue was recrystallized from a mixture of benzene and ligroin. In this way 128 g (77% of theory) of para-methyoxybenzoyl cyanide with a melting point of 63° C were obtained.

reactant | dimethylbenzylamine | 1 mole, 135 g | CN(CC1=CC=CC=C1)C | C9H13N
reactant | para-methoxybenzoyl chloride | 1 mole, 170 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | hydrocyanic acid | 50 g | C#N | CHN
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | para-methyoxybenzoyl cyanide | 128 g, 77% | COC1=CC=C(C(=O)C#N)C=C1 | C9H7NO2
